US08871760B2
4-Benzyloxycarbonylamino-4-phenyl-butyric acid methyl ester was dissolved in EtOH (30 mL), and 10% palladium on activated carbon (1.1 g) was added. The mixture was stirred under hydrogen atmosphere at 45 psi (3.1 bar) for 22 hours at room temperature and 4 hours at 65° C. The mixture was filtered and the filtrated was concentrated under reduced pressure. The residue was recrystallized from a mixture of methanol, diethyl ether and hexanes to give 1.85 g (81%) of 6-phenyl-piperidin-2-one as colorless crystals.

reactant | 4-Benzyloxycarbonylamino-4-phenyl-butyric acid methyl ester | COC(CCC(C1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)=O | C19H21NO4
solvent | EtOH | 30 mL | CCO | C2H6O
catalyst | palladium on activated carbon | 1.1 g | [Pd] | Pd
product | 6-phenyl-piperidin-2-one | 1.85 g, 81% | C1(=CC=CC=C1)C1CCCC(N1)=O | C11H13NO
